US04240979
0.055 mole of 2,6-difluorobenzoyl isocyanate is dripped into 0.05 mole of 4-(1-hydroxy-1-trifluoromethyl-2,2,2-trifluoroethyl)-aniline in 150 ml of absolute toluene. The temperature rises to 27° C. The mixture is heated for 3 hours at 50° C. and then filtered while hot, and the filter cake is dried under reduced pressure at 50° C. There is obtained 19.5 g (95% of theory) of N-(2,6-difluoro-benzoyl)-N'-[4-(1-hydroxy-1-trifluoromethyl-2,2,2-trifluoroethyl)-phenyl]-urea; m.p.: 205°-207° C.

reactant | 2,6-difluorobenzoyl isocyanate | 0.055 mole | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
reactant | 4-(1-hydroxy-1-trifluoromethyl-2,2,2-trifluoroethyl)-aniline | 0.05 mole | OC(C(F)(F)F)(C(F)(F)F)C1=CC=C(N)C=C1 | C9H7F6NO
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2,6-difluoro-benzoyl)-N'-[4-(1-hydroxy-1-trifluoromethyl-2,2,2-trifluoroethyl)-phenyl]-urea | 19.5 g, 95% | FC1=C(C(=O)NC(=O)NC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C(=CC=C1)F | C17H10F8N2O3
